US06506901B2
Step D: (2S)-2-{[4-(4-{[((2R)-2-Hydroxy-2-{4-hydroxy-3-[(methylsulfonyl)amino]-phenyl}ethyl)amino]methyl}piperidin-1-yl)benzoyl]amino}butanedioic Acid
A mixture of (2S)-2-{[4-(4-{[((2R)-2-hydroxy-2-{4-hydroxy-3-[(methylsulfonyl)-amino]-phenyl}-ethyl)amino]methyl}piperidin-1-yl)benzoyl]-amino}butanedioic acid dibenzyl ester (0.074 g, 0.1 mmol) and 0.08 g of 10% palladium on carbon in 4 mL ethanol-cyclohexene (3:1, v/v) was heated at 78° C. until the reduction was complete. The catalyst was filtered (Celite) and the cake was washed with hot methanol. The solvent was removed in vacuo to give 0.023 g of the title compound.

reactant | (2S)-2-{[4-(4-{[((2R)-2-hydroxy-2-{4-hydroxy-3-[(methylsulfonyl)-amino]-phenyl}-ethyl)amino]methyl}piperidin-1-yl)benzoyl]-amino}butanedioic acid dibenzyl ester | 0.1 mmol, 0.074 g | C(C1=CC=CC=C1)OC([C@H](CC(=O)OCC1=CC=CC=C1)NC(C1=CC=C(C=C1)N1CCC(CC1)CNC[C@@H](C1=CC(=C(C=C1)O)NS(=O)(=O)C)O)=O)=O | C40H46N4O9S
catalyst | palladium on carbon | 0.08 g | [Pd] | Pd
solvent | ethanol cyclohexene | 4 mL | C(C)O.C1=CCCCC1
product | (2S)-2-{[4-(4-{[((2R)-2-Hydroxy-2-{4-hydroxy-3-[(methylsulfonyl)amino]-phenyl}ethyl)amino]methyl}piperidin-1-yl)benzoyl]amino}butanedioic Acid | 0.023 g | O[C@@H](CNCC1CCN(CC1)C1=CC=C(C(=O)N[C@H](C(=O)O)CC(=O)O)C=C1)C1=CC(=C(C=C1)O)NS(=O)(=O)C | C26H34N4O9S
